US06716851B2
4-(5-Methoxy-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 5-methoxy-2-methylaniline (26 mg, 0.193 mmol) similar to Example 13 and isolated as a tan solid (8 mg, 12%). 1H NMR (CDCl3): 9.72 (d, J=0.6 Hz, 1H), 8.74-8.68 (m, 2H), 7.70 (s, 1H), 7.44-7.40 (m, 1H), 7.27(s, 1H), 7.25 (s, 1H), 6.99 (s, 1H), 6.85 (dd, J=2.7, 8.7 Hz, 1H), 6.64 (s, 1H), 3.83 (s, 3H), 2.24 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 5-methoxy-2-methylaniline | 0.193 mmol, 26 mg | COC=1C=CC(=C(N)C1)C | C8H11NO
product | 4-(5-Methoxy-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | COC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C1)C | C18H15F3N4O
